US05157035
To a stirred mixture of 7.3 parts of 1-(4-fluorophenyl)-4-[4-(3-pyridazinyl)-1-piperazinyl]-3-cyclohexenecarbonitrile, 1 part of sodium methoxide solution 30% and 240 parts of methanol were added portionwise 0.8 parts of sodium borohydride. Upon completion, stirring was continued overnight at room temperature. The reaction mixture was poured onto ice water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from 2-propanol, yielding 4.5 parts (61.5%) of 1-(4-fluorophenyl)-4-[4-(3-pyridazinyl)-1-piperazinyl]cyclohexanecarbonitrile; mp. 188.7° C. (compound 8).

reactant | 1-(4-fluorophenyl)-4-[4-(3-pyridazinyl)-1-piperazinyl]-3-cyclohexenecarbonitrile | FC1=CC=C(C=C1)C1(CC=C(CC1)N1CCN(CC1)C=1N=NC=CC1)C#N | C21H22FN5
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-fluorophenyl)-4-[4-(3-pyridazinyl)-1-piperazinyl]cyclohexanecarbonitrile | 61.5% | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCN(CC1)C=1N=NC=CC1)C#N | C21H24FN5
